US05030644
To a solution of 4.76 g (0.025 mol) of 1-methyl-5-phenyl-imidazol-2-thiol and 3.15 g (0.031 mol) of triethylamine in 250 mL of acetone was added 2.55 g (0.28 mol) of chloroacetone in 250 mL of acetone. The solution was stirred at room temperature for 16 hours. The acetone was removed by evaporation and the residue was partitioned between ethyl acetate and water. The ethyl acetate phase was washed with water, brine, and dried over magnesium sulfate. The solvent was evaporated from the dried solution to obtain as residue 6.16 grams of 1-methyl-5-phenyl-2[(2-oxopropyl)thio]imidazole which was purified by flash chromatography on silica gel using 2 percent methanol in chloroform as eluant.

reactant | 1-methyl-5-phenyl-imidazol-2-thiol | 0.025 mol, 4.76 g | CN1C(=NC=C1C1=CC=CC=C1)S | C10H10N2S
reactant | triethylamine | 0.031 mol, 3.15 g | C(C)N(CC)CC | C6H15N
reactant | chloroacetone | 0.28 mol, 2.55 g | ClCC(C)=O | C3H5ClO
solvent | acetone | 250 mL | CC(=O)C | C3H6O
solvent | acetone | 250 mL | CC(=O)C | C3H6O
product | 1-methyl-5-phenyl-2[(2-oxopropyl)thio]imidazole | 6.16 grams | CN1C(=NC=C1C1=CC=CC=C1)SCC(C)=O | C13H14N2OS
